US05247078
J. Gatto, et al. in "4,13-Diaza-18-Crown-6 (1,4,10,13-Tetraoxa-7,16-diazacyclooctadecane)," Organic Synthesis, Vol. 68, 1989, pp. 227-233, teach the preparation of the title compound by a three-step procedure that might be considered the standard preparation for these materials. First, benzylamine is reacted with 1,2-bis(2-chloroethoxy)ethane to produce 1,10-dibenzyl-4,7-dioxa-1,10-diazadecane. The product of the first step is then reacted in the presence of 1,2-bis(2-iodoethoxy)ethane, anhydrous sodium carbonate and sodium iodide in acetonitrile to give N,N'-dibenzyl-4,13-diaza-18-crown-6 in the second step. The phenyl groups of the second step product are then removed in a third, hydrogenation step over a palladium catalyst on a carbon support.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,2-bis(2-chloroethoxy)ethane | ClCCOCCOCCCl | C6H12Cl2O2
product | 1,10-dibenzyl-4,7-dioxa-1,10-diazadecane | C(C1=CC=CC=C1)NCCOCCOCCNCC1=CC=CC=C1 | C20H28N2O2
